US04663341
Into a 1000 ml three necked flask equipped with an addition funnel, and condenser was added 15.4 g of 60% sodium hydride (0.63 mole). The sodium hydride was washed twice with hexane and then suspended in 300 ml of tetrahydrofuran and 29 g of dimethyl carbonate (0.32 mole). The reaction mixture was brought to reflux and a solution of 50 g (0.32 mole) of 4-chloroacetophenone in 50 ml of tetrahydrofuran was added over 30 minutes. After hydrogen evolution had ceased the reaction was cooled and poured onto ice. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl ether. The organic layer was dried, concentrated, and distilled at 15 torr bp 180°-205° C. to give 40 g of methyl 3-(4-chlorophenyl)-3-keto-propanoate.

reactant | sodium hydride | 0.63 mole, 15.4 g | [H-].[Na+]
reactant | dimethyl carbonate | 0.32 mole, 29 g | C(OC)(OC)=O | C3H6O3
reactant | 4-chloroacetophenone | 0.32 mole, 50 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 3-(4-chlorophenyl)-3-keto-propanoate | 40 g | ClC1=CC=C(C=C1)C(CC(=O)OC)=O | C10H9ClO3
